US06110914
(c) 3-Bromo-2-methoxypyridine
Under an argon atmosphere, a mixture of 3-bromo-2-hydroxypyridine (3.49 g, 20 mmol), silver carbonate (3.67 g, 13.31 mmol), and iodomethane (1.5 mL, 24.1 mmol) in benzene (30 mL) was stirred in the dark at 40° C. to 50° C. for 24 hours, cooled in an ice bath, and filtered. The filtrate was washed once with 2% aqueous sodium bicarbonate and twice with water, dried (MgSO4), the benzene was evaporated at atmospheric pressure, and the residue was purified by flash chromatography (eluting with hexane/ethyl acetate, 2:1) to obtain the title compound (2.35 g, 12.5 mmol, 62%).

reactant | 3-bromo-2-hydroxypyridine | 20 mmol, 3.49 g | BrC=1C(=NC=CC1)O | C5H4BrNO
reactant | iodomethane | 24.1 mmol, 1.5 mL | IC | CH3I
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 13.31 mmol, 3.67 g | C([O-])([O-])=O.[Ag+2]
product | 3-Bromo-2-methoxypyridine | 12.5 mmol, 2.35 g, 62% | BrC=1C(=NC=CC1)OC | C6H6BrNO
